2108-03-11 07:18:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: Hypoxia; Pneumonia
   Reason for MICU Transfer: Nursing concern
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2108-3-10**] 06:04 PM
   -BM and flatus this AM
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-3-11**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-3-11**] 05:35 AM
   Infusions:
   Ketamine - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-3-10**] 09:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-11**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.5
C (97.7
   HR: 122 (109 - 132) bpm
   BP: 133/80(90) {98/53(63) - 138/91(106)} mmHg
   RR: 39 (14 - 39) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
             Total In:
                                                                    723 mL
                                                                    524 mL
   PO:
             TF:
   IVF:
                                                                    723 mL
                                                                    524 mL
   Blood products:
   Total out:
                                                                    165 mL
                                                                    790 mL
   Urine:
                                                                    165 mL
                                                                    490 mL
   NG:
   300 mL
   Stool:
   Drains:
   Balance:
                                                                    558 mL
                                                                   -266 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Eyes / Conjunctiva: Conjunctiva pale
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   +Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Tender: midline
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, +Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   459 K/uL
   9.0 g/dL
   99 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   11 mg/dL
   102 mEq/L
   136 mEq/L
   27.5 %
   19.9 K/uL
        [image002.jpg]
                             [**2108-3-5**]  04:16 PM
                             [**2108-3-6**]  05:43 AM
                             [**2108-3-10**]  09:09 PM
                             [**2108-3-11**]  05:24 AM
   WBC
   28.0
   18.9
   24.5
   19.9
   Hct
   32.1
   29.8
   29.1
   27.5
   Plt
   486
   505
   457
   459
   Cr
   0.7
   0.7
   0.7
   0.7
   Glucose
   140
   116
   98
   99
   Other labs: PT / PTT / INR:20.7/29.6/1.9, ALT / AST:[**7-8**], Alk Phos / T
   Bili:77/0.6, Differential-Neuts:88.5 %, Lymph:4.5 %, Mono:5.2 %,
   Eos:1.5 %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:221 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR PA/LAT [**2108-3-10**]:
   FINDINGS: Bilateral mid lung alveolar infiltrates are slightly worsened
   on
   today's study. There continues to be air under the right hemidiaphragm
   and
   under the diaphragm in the midline. There is an air-fluid level on the
   right,
   suggesting ascites and trace right pleural effusion. NG tube tip is in
   the
   stomach. Skin staples are seen in the midline.
   Microbiology: Blood cx [**2108-3-8**], [**2108-3-10**], [**2108-3-11**] pending
   Urine cx [**2108-3-10**] Pending
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   S/P RP LN biopsy
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Chronic LBP on morphine 15 Q 6 and post-op pain
 ADVERSE DRUG EVENT (ADR, ADE, MEDICATION TOXICITY)
   Bleomycin induced lung injury
 CANCER (MALIGNANT NEOPLASM), OTHER
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 COCAINE ABUSE
   short-term memory loss [**2-28**] cocaine induced seizure with status
   epilepticus
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 ANEMIA, CHRONIC
   [**2-28**] cancer
 .H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   s/p ABVD and XRT in [**2097**]
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   esophageal ulcers, followed by GI [**Doctor Last Name 13139**]/Shields
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
   43yoM with emphysema, bleomycin induced lung toxicity, germ cell tumor
   with choriocarcinoma POD#5 s/p retroperitoneal LN biopsy transferred to
   [**Hospital Unit Name 1**] with hypoxia, aspiration pneumonia vs HAP.
   .
   # Hypoxia: Patient has underlying lung disease (emphysema and bleomycin
   induced lung toxicity) with episode of desaturation to 80s yesterday
   associated with SOB that improved with albuterol. He currently denies
   any SOB and oxygen saturations are at goal 90% on 1L. Hypoxia likely
   multifactorial related to aspiration vs pneumonia (HAP) with new
   bilateral infiltrates in setting of known underlying lung disease.
   - f/u sputum cx, blood cx
   - Cont vanc/zosyn for HAP
   - Cont standing and prn albuterol and ipratropium nebs
   - continue home advair
   - maintain o2 sats 90%
   - NGT to LIWS
   - aspiration precuations
   - IS, OOB
   .
   # Ileus: Improving after flatus and BM. Patient with post-op ileus
   since surgery likely secondary to narcotics and post-operative state,
   large abdominal surgery
   - minimize narcotic use
   - appreciate pain recs re: dilaudid PCA
   - continue ketamine infusion
   - fleet enema PRN
   - OOB TID
   - appreciate general surgery recs
   .
   # Leukocytosis: Likely secondary to pneumonia as above and post-op
   state. Not having diarrhea but given broad spectrum antibiotics, would
   also check C diff if has stool and UA and Ucx to be complete
   - blood cx, UA, Ucx, C diff
   - CIS
   - continue to trend
   - trend lactate and CBC
   .
   # Sinus tachycardia: Per urology, normal post-operatively secondary to
   dissection of sympathetic trunk during procedure. Likely also related
   to infection. Afebrile.
   - monitor
   .
   # Anemia: HCT slowly drifting down, 25 from 31 on admission, likely
   related to post-op blood loss. Has been transfused a total of 4 units
   PRBCs. Also noted to previously have ? coffee grounds output from NGT
   - serial HCT
   - PPI IV BID
   - guaiac all stool
   - transfuse HCT<21 or active bleed
   .
   # Coagulopathy :INR 1.8 today, likely nutritional given decreased PO
   intake
   - vit K IV x 1 for possible epidural for pain control
   - continue to trend
   .
   #  Choriocarcinoma s/p RPLND: Plan per urology, outpatient oncology
   ([**First Name4 (NamePattern1) 1035**] [**Last Name (NamePattern1) 9334**])
   - follow up biopsy results
   - appreciate urology recs
   - appreciate pain recs, dilaudid PCA and home MS contin for now,
   consider ketamine infusion vs epidural
   .
   # Seizure dirorder: No reproted seizures in hospital
   - continue zonegran
   .
   FEN: No IVF, replete electrolytes, sips
   .
   Prophylaxis: pneumoboots, OOB
   .
   Access: peripheral, port
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   .
   ICU Care
   Nutrition: Sips
   Glycemic Control: Blood sugar well controlled
   Lines:
   Indwelling Port (PortaCath) - [**2108-3-10**] 06:04 PM
   20 Gauge - [**2108-3-10**] 06:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2108-03-11 07:57:00 Physician Attending Progress Note
Chief Complaint: aspiration pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transferred to the [**Hospital Unit Name 1**] o/n for closer monitoring from the urology
   floor s/p desats to low 80s
   Ketamine gtt and dilautid PCA started per the Pain service
   O2 weaned down
   History obtained from Patient
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-3-11**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-3-11**] 05:35 AM
   Infusions:
   Ketamine - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-3-10**] 09:24 PM
   Other medications:
   Dilaudid PCA
   Atrovent QID
   Xopenex Q6
   Neurontin 300 TID
   NAC 600 PO Q8
   Morphine SR 15 mg Q8
   Advair [**Hospital1 7**]
   Vitamin D 800 daily
   Zonisamide
   Colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-11**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.5
C (97.7
   HR: 122 (109 - 132) bpm
   BP: 133/80(90) {98/53(63) - 138/91(106)} mmHg
   RR: 39 (14 - 39) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
             Total In:
                                                                    723 mL
                                                                    542 mL
   PO:
             TF:
   IVF:
                                                                    723 mL
                                                                    542 mL
   Blood products:
   Total out:
                                                                    165 mL
                                                                    790 mL
   Urine:
                                                                    165 mL
                                                                    490 mL
   NG:
   300 mL
   Stool:
   Drains:
   Balance:
                                                                    558 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 1L/min
   SpO2: 89%
   ABG: ///24/
   Physical Examination
   Gen:
   Neck:
   Chest:
   CV:
   Abd:
   Extr:
   Labs / Radiology
   9.0 g/dL
   459 K/uL
   99 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   11 mg/dL
   102 mEq/L
   136 mEq/L
   27.5 %
   19.9 K/uL
        [image002.jpg]
                             [**2108-3-5**]  04:16 PM
                             [**2108-3-6**]  05:43 AM
                             [**2108-3-10**]  09:09 PM
                             [**2108-3-11**]  05:24 AM
   WBC
   28.0
   18.9
   24.5
   19.9
   Hct
   32.1
   29.8
   29.1
   27.5
   Plt
   486
   505
   457
   459
   Cr
   0.7
   0.7
   0.7
   0.7
   Glucose
   140
   116
   98
   99
   Other labs: PT / PTT / INR:20.7/29.6/1.9, ALT / AST:[**7-8**], Alk Phos / T
   Bili:77/0.6, Differential-Neuts:88.5 %, Lymph:4.5 %, Mono:5.2 %,
   Eos:1.5 %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:221 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Vanco trough [**3-10**]: 7.6
   UA: small LE, small blood, no bacteria
   Micro: blood cxs NGTD, sputum with oral flora x 2 ([**3-7**], [**3-10**])
   Studies:
   CXR (my read):
   Assessment and Plan
   43yoM with h/o HD s/p chemo, then with bleomycin induced lung toxicity,
   h/o cocaine abuse and resultant memory impairment, now also with germ
   cell tumor with and POD#6 s/p retroperitoneal LN dissection, c/b
   post-op ileus and aspiration pneumonia, now in the [**Hospital Unit Name 1**] with hypoxia
   1. Hypoxia: aspiration pneumonia, likely [**2-28**]
   # Hypoxia: Patient has underlying lung disease (emphysema and bleomycin
   induced lung toxicity) with episode of desaturation to 80s this am
   associated with SOB that improved with albuterol. He currently denies
   any SOB and oxygen saturations are at goal 90% on 2L. Hypoxia likely
   multifactorial related to aspiration vs pneumonia (HAP) with new
   bilateral infiltrates in setting of known underlying lung disease. If
   patient had new hypoxia or was worse, would consider CTA to eval for PE
   since has not been on heparin but given o2 sats returned to prior
   baseline with nebs, less likely.
   - check sputum cx, blood cx
   - vanc/zosyn for HAP
   - standing and prn albuterol and ipratropium nebs
   - continue home advair
   - maintain o2 sats 90%
   - NGT to LIWS
   - aspiration precuations
   - IS, OOB, pulmonary toilet
   .
   # Ileus: Patient now with post-op ileus since surgery likely secondary
   to narcotics and post-operative state, large abdominal surgery
   - minimize narcotic use
   - appreciate pain recs re: ketamine infusion vs epidural, ketamine for
   now to decrease narcotic use
   - fleet enema x 1
   - OOB TID
   - appreciate general surgery recs
   .
   # Leukocytosis: Likely secondary to pneumonia as above and post-op
   state. Not having diarrhea but given broad spcetrum antibiotics, would
   also check C diff if has stool and UA and Ucx to be complete
   - blood cx, UA, Ucx, C diff
   - CIS
   - continue to trend
   - trend lactate and CBC
   .
   # Sinus tachycardia: Per urology, normal post-operatively secondary to
   dissection of sympathetic trunk during procedure. Likely also related
   to infection. Afebrile.
   - check ECG
   .
   # Anemia: HCT slowly drifting down, 25 from 31 on admission, likely
   related to post-op blood loss. Has been transfused a total of 4 units
   PRBCs. Also noted to previously have ? coffee grounds output from NGT
   - serial HCT
   - PPI IV BID
   - guaiac all stool
   - transfuse HCT<21 or active bleed
   # Coagulopathy :INR 1.8 today, likely nutritional given decreased PO
   intake
   - vit K PO x 1 for possible epidural for pain control
   - continue to trend
   #  Choriocarcinoma s/p RPLND: Plan per urology, outpatient oncology
   ([**First Name4 (NamePattern1) 1035**] [**Last Name (NamePattern1) 9334**])
   - follow up biopsy results
   - appreciate urology recs
   - appreciate pain recs, dilaudid PCA and home MS contin for now,
   consider ketamine infusion vs epidural
   # Seizure dirorder: No reproted seizures in hospital
   - continue zonegran
   FEN: No IVF, replete electrolytes, sips
   Prophylaxis: pneumoboots, OOB
   Access: peripheral, port
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2108-3-10**] 06:04 PM
   20 Gauge - [**2108-3-10**] 06:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2108-03-12 06:53:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: Hypoxia; Pneumonia
   Reason for MICU Transfer: Nursing concern
   24 Hour Events:
   [**2108-3-11**]:
   - no supplemental oxygen since 9am
   - started dilaudid PCA
   - Passing gas, no BM-
   History obtained from Patient
   Allergies:
   History obtained from PatientAugmentin (Oral) (Amox Tr/Potassium
   Clavulanate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-3-11**] 08:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2108-3-12**] 06:44 AM
   Infusions:
   Ketamine - 16 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-3-11**] 09:00 PM
   Pantoprazole (Protonix) - [**2108-3-11**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-12**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.5
   HR: 121 (105 - 129) bpm
   BP: 120/74(85) {111/65(79) - 156/97(106)} mmHg
   RR: 36 (0 - 45) insp/min
   SpO2: 86%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
             Total In:
                                                                  2,221 mL
                                                                    319 mL
   PO:
             TF:
   IVF:
                                                                  2,101 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                  1,620 mL
   Urine:
                                                                  1,600 mL
                                                                    620 mL
   NG:
                                                                  1,000 mL
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                   -379 mL
                                                                 -1,301 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 86%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   +Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Tender: midline, +bowel sounds
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, +Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   478 K/uL
   9.0 g/dL
   89 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   10 mg/dL
   102 mEq/L
   136 mEq/L
   27.2 %
   17.9 K/uL
        [image002.jpg]
                             [**2108-3-5**]  04:16 PM
                             [**2108-3-6**]  05:43 AM
                             [**2108-3-10**]  09:09 PM
                             [**2108-3-11**]  05:24 AM
                             [**2108-3-12**]  04:21 AM
   WBC
   28.0
   18.9
   24.5
   19.9
   17.9
   Hct
   32.1
   29.8
   29.1
   27.5
   27.2
   Plt
   486
   505
   457
   459
   478
   Cr
   0.7
   0.7
   0.7
   0.7
   0.6
   Glucose
   140
   116
   98
   99
   89
   Other labs: PT / PTT / INR:14.1/25.7/1.2, ALT / AST:[**7-8**], Alk Phos / T
   Bili:77/0.6, Differential-Neuts:88.5 %, Lymph:4.5 %, Mono:5.2 %,
   Eos:1.5 %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:221 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR PA/LAT [**2108-3-11**]
   1) No significant change detected compared with one day earlier.
   Bilateral parenchymal opacities, small effusions, and small amount of
   free
   intraperitoneal air again noted.
   2) Patchy increased density over both humeral heads, highly suggestive
   of
   avascular necrosis. Clinical correlation requested.
   KUB [**2108-3-11**]:
   1) Region of cecum not well-evaluated due to limitation in identifying
   wall of
   cecum. Otherwise, no dilated loops of bowel identified.
   2) Femoral head osteonecrosis noted. No articular surface collpase
   identified.
   Microbiology: [**2108-3-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2108-3-10**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2108-3-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2108-3-10**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2108-3-8**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2108-3-7**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   S/P RP LN biopsy
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Chronic LBP on morphine 15 Q 6 and post-op pain
 ADVERSE DRUG EVENT (ADR, ADE, MEDICATION TOXICITY)
   Bleomycin induced lung injury
 CANCER (MALIGNANT NEOPLASM), OTHER
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 COCAINE ABUSE
   short-term memory loss [**2-28**] cocaine induced seizure with status
   epilepticus
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 ANEMIA, CHRONIC
   [**2-28**] cancer
 .H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   s/p ABVD and XRT in [**2097**]
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   esophageal ulcers, followed by GI [**Doctor Last Name 13139**]/Shields
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
   43yoM with emphysema, bleomycin induced lung toxicity, germ cell tumor
   with choriocarcinoma POD#5 s/p retroperitoneal LN biopsy transferred to
   [**Hospital Unit Name 1**] with hypoxia, aspiration pneumonia vs HAP.
   .
   # Hypoxia: Improved, successfully weaned O2. Patient has underlying
   lung disease (emphysema and bleomycin induced lung toxicity) with
   episode of desaturation to 80s yesterday associated with SOB that
   improved with albuterol. He currently denies any SOB and oxygen
   saturations are at goal high 80s on RA. Hypoxia likely multifactorial
   related to aspiration vs pneumonia (HAP) with new bilateral infiltrates
   in setting of known underlying lung disease.
   - f/u sputum cx, blood cx
   - Cont vanc/zosyn for HAP
   - Cont standing and prn albuterol and ipratropium nebs
   - continue home advair
   - maintain o2 sats 90%
   - NGT to LIWS
   - aspiration precuations
   - IS, OOB
   .
   # Ileus: Improving after flatus and BM. Patient with post-op ileus
   since surgery likely secondary to narcotics and post-operative state,
   large abdominal surgery
   - minimize narcotic use
   - appreciate pain recs re: dilaudid PCA
   - continue ketamine infusion
   - fleet enema PRN
   - OOB TID
   - appreciate general surgery recs
   - walk pt, if significant pain, will need to consider an epidural to be
   done in the ICU
   - contact pain service re ?epidural
   - Intensify bowel reg
   .
   # Leukocytosis: Likely secondary to pneumonia as above and post-op
   state. Not having diarrhea but given broad spectrum antibiotics, would
   also check C diff if has stool and UA and Ucx to be complete
   - blood cx, UA, Ucx, C diff
   - repeat sputum cx
   - CIS
   - continue to trend
   - trend lactate and CBC
   # Avascular necrosis: Unclear etiology, no recent steroids,
   bisphosphanates or trauma.
   - Investigate recent chem use
   - OOB
   - PT
   .
   # Sinus tachycardia: Per urology, normal post-operatively secondary to
   dissection of sympathetic trunk during procedure. Likely also related
   to infection. Afebrile.
   - monitor
   .
   # Anemia: HCT slowly drifting down, 25 from 31 on admission, likely
   related to post-op blood loss. Has been transfused a total of 4 units
   PRBCs. Also noted to previously have ? coffee grounds output from NGT
   - serial HCT
   - PPI IV BID
   - guaiac all stool
   - transfuse HCT<21 or active bleed
   .
   # Coagulopathy :INR 1.8 today, likely nutritional given decreased PO
   intake
   - vit K IV x 1 for possible epidural for pain control
   - continue to trend
   .
   #  Choriocarcinoma s/p RPLND: Plan per urology, outpatient oncology
   ([**First Name4 (NamePattern1) 1035**] [**Last Name (NamePattern1) 9334**])
   - follow up biopsy results
   - appreciate urology recs
   - appreciate pain recs, dilaudid PCA and home MS contin for now,
   consider ketamine infusion vs epidural
   .
   # Seizure dirorder: No reproted seizures in hospital
   - continue zonegran
   .
   FEN: No IVF, replete electrolytes, sips
   .
   Prophylaxis: pneumoboots, OOB
   .
   Access: peripheral, port
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   .
   ICU Care
   Nutrition: Sips
   Glycemic Control: Blood sugar well controlled
   Lines:
   Indwelling Port (PortaCath) - [**2108-3-10**] 06:04 PM
   20 Gauge - [**2108-3-10**] 06:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, possible call out to urology floor today.

2108-03-12 08:25:00 Physician Attending Progress Note
Chief Complaint: respiratory distress, HAP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned off supplemental oxygen
   Continued ketamine gtt and dilaudid PCA
                                             History obtained from Patient
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-3-11**] 08:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2108-3-12**] 06:44 AM
   Infusions:
   Ketamine - 16 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-3-11**] 09:00 PM
   Pantoprazole (Protonix) - [**2108-3-11**] 09:15 PM
   Other medications:
   Atrovent QID
   Xopenex Q6
   Zosyn
   Gabapentin
   MS contin 15 Q8
   Advair
   MVI
   Vitamin D
   Zonegram
   Colace
   Dilaudid PCA
   Fluticasone
   NAC
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: feels
much better
 today, breathing improved, and
   pain better controlled. + flatus
   Flowsheet Data as of  [**2108-3-12**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.5
   HR: 121 (105 - 129) bpm
   BP: 120/74(85) {111/65(79) - 156/97(106)} mmHg
   RR: 36 (0 - 45) insp/min
   SpO2: 86%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
             Total In:
                                                                  2,221 mL
                                                                    437 mL
   PO:
             TF:
   IVF:
                                                                  2,101 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                  1,620 mL
   Urine:
                                                                  1,600 mL
                                                                    620 mL
   NG:
                                                                  1,000 mL
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                   -379 mL
                                                                 -1,183 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 86%
   ABG: ///24/
   Physical Examination
   Gen: nad, awake in bed, smiling
   Neck: supple, JVP flat
   Chest: rales B anteriorly
   CV: tachy, regular, no M
   Abd: soft, + TTP, + BS
   Extr: warm, no edema
   Labs / Radiology
   9.0 g/dL
   478 K/uL
   89 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   10 mg/dL
   102 mEq/L
   136 mEq/L
   27.2 %
   17.9 K/uL
        [image002.jpg]
                             [**2108-3-5**]  04:16 PM
                             [**2108-3-6**]  05:43 AM
                             [**2108-3-10**]  09:09 PM
                             [**2108-3-11**]  05:24 AM
                             [**2108-3-12**]  04:21 AM
   WBC
   28.0
   18.9
   24.5
   19.9
   17.9
   Hct
   32.1
   29.8
   29.1
   27.5
   27.2
   Plt
   486
   505
   457
   459
   478
   Cr
   0.7
   0.7
   0.7
   0.7
   0.6
   Glucose
   140
   116
   98
   99
   89
   Other labs: PT / PTT / INR:14.1/25.7/1.2, ALT / AST:[**7-8**], Alk Phos / T
   Bili:77/0.6, Differential-Neuts:88.5 %, Lymph:4.5 %, Mono:5.2 %,
   Eos:1.5 %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:221 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Vanco: due at 6pm today
   Micro:
   Blood and urine: NGTD
   CXR:  stable B opacities, port in place, NGT in stomach
   Assessment and Plan
   43yoM with h/o HD s/p chemo, then with bleomycin induced lung toxicity,
   h/o cocaine abuse and resultant memory impairment, now also with germ
   cell tumor with and POD#6 s/p retroperitoneal LN dissection, c/b
   post-op ileus and aspiration pneumonia, now in the [**Hospital Unit Name 1**] with hypoxia.
   1. Hypoxia: aspiration pneumonia, likely [**2-28**] post-op ileus, background
   of bleo toxicity, COPD.   Recent CTA neg for PE, now off O2 with sats
   in hig 80s.  WBCs coming down, afebrile. Sputum cxs with normal [**Month/Day (2) 12253**],
   so unable to narrow coverage.
   - Continue vanco+zosyn (day 1 yesterday as likely had a recurrent
   aspiration episode), x 8 days, increase vanco to 1500 Q12 given low
   trough
   - Continue NPO and NGT to suction
   - Continue Advair, NAC, nebs
   - Flonase for nasal congestion
   - goal sats high 80s/low 90s
   2. Pain control:  now reasonably controlled on ketamine IV and dilaudid
   PCA
   - continue ketamine gtt and dilaudid PCA
   - f/up Pain team recs: will d/w them re: ?epidural
   3. Ileus: [**2-28**] abdominal surgery and narcotics for pain control. +
   Flatus today, and + BMs.
   - Continue NGT to suction
   - OOB, mobilize
   - follow general surgery recs
   - repeat KUB prn change in clinical status
   4. Sinus tachycardia: Per urology, normal post-operatively secondary to
   dissection of sympathetic trunk during procedure. Likely also related
   to pneumonia and pain.  Remains afebrile.  ECG with ST.
   - Monitor
   5. Anemia: HCT slowly drifting down, 25 from 31 on admission, likely
   related to post-op blood loss, s/p 4 units PRBCs.
   - daily HCTs
   - PPI IV BID
   - guaiac all stool
   - transfuse HCT<21 or active bleed
   6. Coagulopathy : elevated INR, likely [**2-28**] nutritional deficiency since
   admission.
   - Vitamin K again today to bring down in order to allow Pain team to
   place epidural for pain control
   7.  Choriocarcinoma: s/p RPLND: plan per urology, outpatient oncology
   ([**First Name4 (NamePattern1) 1035**] [**Last Name (NamePattern1) 9334**])
   - follow up biopsy results
   - appreciate urology recs
   8. Seizure dirorder: No reproted seizures in hospital
   - Continue zonegran
   Rest of plan per the Housestaff note.
   ICU Care
   Nutrition: start D5
   Lines:
   Indwelling Port (PortaCath) - [**2108-3-10**] 06:04 PM
   20 Gauge - [**2108-3-10**] 06:04 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer:  PPI
   Communication:   with patient
   Code status: Full code
   Disposition: stable for floor, transfer OK with Urology team
   Total time spent:  35 min CCT